US04751328
33.2 g (0.2 mol) of this p-nitrobenzaldoxime, 18.3 g (0.25 mol) of boric anhydride, 1 g of a 5% Pt-C catalyst and 100 ml of methanol were charged into a hermetically sealed glass container and vigorously stirred while charging hydrogen. Reaction was continued at temperatures of 25° C. to 30° C. for 13.5 hours and 22.2 l of hydrogen was absorbed. Next, this reaction mixture was filtered to remove the catalyst and methanol was distilled off by concentration under reduced pressure. A yellow viscous liquid thus obtained was neutralized by adding 57 g (0.5 mol) of a 35% aqueous solution of sodium hydroxide and then, the liquid was separated to two layers. The lower layer, a colorless and transparent aqueous solution of sodium borate was removed and then, a brown and oily crude p-aminobenzylamine was obtained. This crude p-aminobenzylamine was subject to vacuum distillation at pressure of 5 to 6 mmHg and 22.5 g of fractions between 129.5° C. and 130° C. was obtained (yield 92.1%). The purity by means of gas chromatography was 99.93%.

reactant | p-nitrobenzaldoxime | 0.2 mol, 33.2 g | [N+](=O)([O-])C1=CC=C(C=NO)C=C1 | C7H6N2O3
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Pt-C | [Pt] | Pt
solvent | methanol | 100 ml | CO | CH4O
product | p-aminobenzylamine | yield 92.1% | NC1=CC=C(CN)C=C1 | C7H10N2
